US05326495
) 5.0 g of the known compound 4-(5-heptyl-2-pyrimidyl)phenol are dissolved in 70 ml of dimethyl sulfoxide together with 1.35 g of pentaerythrityl tetrabromide. 15 g of finely powdered potassium carbonate are added, and the mixture is stirred at 80° C. for 16 h. Conventional work-up gives 2.1 g of tetrakis[4-(5-heptyl-2-pyrimidyl)phenyloxymethyl]methane, m.p. 179°.

reactant | 4-(5-heptyl-2-pyrimidyl)phenol | C(CCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C17H22N2O
reactant | pentaerythrityl tetrabromide | 1.35 g | C(C(CBr)(CBr)CBr)Br | C5H8Br4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 70 ml | CS(=O)C | C2H6OS
product | tetrakis[4-(5-heptyl-2-pyrimidyl)phenyloxymethyl]methane | 2.1 g | C(CCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCC(COC1=CC=C(C=C1)C1=NC=C(C=N1)CCCCCCC)(COC1=CC=C(C=C1)C1=NC=C(C=N1)CCCCCCC)COC1=CC=C(C=C1)C1=NC=C(C=N1)CCCCCCC | C73H92N8O4
